US05919795
4'-trifluoromethyl-biphenyl-2-carboxylic acid (2-benzyl-1,2,3,4-tetrahydroisoquinolin-6yl)-amide
Methanesulfonyl chloride (0.041 mL) was added to a 0° C. solution of 4'-trifluoromethyl-biphenyl-2-carboxylic acid-[3-(2-hydroxy-ethyl)-4-hydroxymethyl-phenyl]-amide (100 mg, 0.24 mmol) and triethylamine (0.084 mL) in THF (2 mL). TLC showed complete reaction after 30 min. Benzylamine (0.132 mL) was added and the contents stirred for 18 hrs at 25° C. and 60 hrs at 50° C. The solvent was removed under vacuum, the residue dissolved in methylene chloride (15 mL), washed with pH9 buffer, phases separated, and the organic phase dried with magnesium sulfate. Removal of the solvent under vacuum gave the crude product as a white solid (204 mg), which was repulsed in CDCl3 filtered off and dried to give the product as a white solid (46 mg, 39%). mp=230-32° C.

reactant | Methanesulfonyl chloride | 0.041 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4'-trifluoromethyl-biphenyl-2-carboxylic acid-[3-(2-hydroxy-ethyl)-4-hydroxymethyl-phenyl]-amide | 0.24 mmol, 100 mg | OCCC=1C=C(C=CC1CO)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C23H20F3NO3
reactant | triethylamine | 0.084 mL | C(C)N(CC)CC | C6H15N
reactant | Benzylamine | 0.132 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4'-trifluoromethyl-biphenyl-2-carboxylic acid (2-benzyl-1,2,3,4-tetrahydroisoquinolin-6yl)-amide | 46 mg, 39% | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C30H25F3N2O
